US07169780B2
Step 6: Methyl 5-(benzoyloxy)-2-(1-{[(benzyloxy)carbonyl]amino}-1-methylethyl)-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxylate
To a stirred solution of LiH (1.1 eq) in dioxane, methyl 5-(benzoyloxy)-2-(1-{[(benzyloxy)carbonyl]amino}-1-methylethyl)-6-hydroxypyrimidine-4-carboxylate was added and the mixture was stirred at 38° C. for 45 min. After cooling down to room temperature, dimethylsulfate (1.3 eq) was added and reaction mixture was heated at 60° C. for 2 h. Mixture was then cooled to room temperature, dioxane evaporated and residue was purified by flash chromatography, eluting with 65/55 v/v petroleum ether/ethyl acetate. Collection and evaporation of appropriate fractions afforded the title product.

reactant | LiH | 1.1 eq | [H-].[Li+]
reactant | dimethylsulfate | 1.3 eq | COS(=O)(=O)OC | C2H6O4S
reactant | methyl 5-(benzoyloxy)-2-(1-{[(benzyloxy)carbonyl]amino}-1-methylethyl)-6-hydroxypyrimidine-4-carboxylate | C(C1=CC=CC=C1)(=O)OC=1C(=NC(=NC1O)C(C)(C)NC(=O)OCC1=CC=CC=C1)C(=O)OC | C24H23N3O7
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Methyl 5-(benzoyloxy)-2-(1-{[(benzyloxy)carbonyl]amino}-1-methylethyl)-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxylate | C(C1=CC=CC=C1)(=O)OC1=C(N=C(N(C1=O)C)C(C)(C)NC(=O)OCC1=CC=CC=C1)C(=O)OC | C25H25N3O7
